US05994378
A mixture of 3-formylindole-5-carboxylic acid (3.47 g), hydroxylamine hydrochloride (1.97 g) and sodium acetate (2.41 g) in acetic acid (30 ml) was stirred for 12 hours, then acetic anhydride (15 ml) was added to the mixture and allowed to react under reflux for 5 hours. After cooling, the reaction mixture was filtered and the filtrate was evaporated under reduced pressure. Methanol was added to the residue and the mixture was reevaporated under reduced pressure. Thionyl chloride (8 ml) and small amounts of N,N-dimethylformamide was added to the residue obtained above in dichloromethane (20 ml). After being stirred for 2 hours at room temperature, the reaction mixture was evaporated under reduced pressure, and the residue was treated with methanol and concentrated under reduced pressure. The residue was partitioned between aqueous sodium hydrogen carbonate solution and ethyl acetate. The ethyl acetate layer was washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The resulting residue was subjected to column chromatography on silica gel and eluted with a mixture of ethyl acetate and chloroform. The fractions containing the objective compounds were combined and concentrated under reduced pressure to give methyl 3-cyanoindole-5-carboxylate (2.87 g).

reactant | 3-formylindole-5-carboxylic acid | 3.47 g | C(=O)C1=CNC2=CC=C(C=C12)C(=O)O | C10H7NO3
reactant | hydroxylamine hydrochloride | 1.97 g | Cl.NO
reactant | sodium acetate | 2.41 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | methyl 3-cyanoindole-5-carboxylate | 2.87 g | C(#N)C1=CNC2=CC=C(C=C12)C(=O)OC | C11H8N2O2
